US07652041B2
Step 1: Preparation of ethyl 2-(3-methoxyphenyl)cyclopropanecarboxylate
To a mixture of 1-methoxy-3-vinylbenzene (3.10 g, 23.1 mmol) and dioxomethane-diheptylrhodium (4:2) (0.090 g, 0.12 mmol) in DCM (100 mL) under an atmosphere of argon at rt was added a solution of ethyl diazoacetate (1.22 mL, 11.6 mmol) in DCM (6 mL) dropwise via syringe. The reaction mixture as allowed to stir at rt for 2 h and then concentrated. The residue was purified by column chromatography to give the desired product (1.63 g) as a mixture of cis and trans isomers, along with recovered starting material (1.50 g). LCMS: (FA) ES+ 221.2 (M+1).

reactant | 1-methoxy-3-vinylbenzene | 23.1 mmol, 3.10 g | COC1=CC(=CC=C1)C=C | C9H10O
reactant | ethyl diazoacetate | 11.6 mmol, 1.22 mL | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
catalyst | dioxomethane diheptylrhodium | 0.12 mmol, 0.090 g | O=C=O.C(CCCCCC)[Rh]CCCCCCC
product | ethyl 2-(3-methoxyphenyl)cyclopropanecarboxylate | 1.63 g | COC=1C=C(C=CC1)C1C(C1)C(=O)OCC | C13H16O3
